US07635715B2
A suspension of NaH (60% dispersion in mineral oil (2.3 g, 60 mmol)) in NMP (80 mL) was cooled to 0° C. under nitrogen. The reaction mixture was treated with a solution of ethyl 2-(4-(trifluoromethyl)phenyl)acetate (4.672 g, 20 mmol) in NMP (20 mL) in a dropwise fashion over 10 minutes (effervescence occurred), followed by bis(2-bromoethyl)ether (2.8 mL, 22 mmol). After 15 minutes, the reaction was warmed to 23° C. After 20 hours, the reaction was diluted with a 10% HCl solution (300 mL; slowly, a lot of effervescence was observed) and extracted with diethyl ether (2×300 mL). The combined organic layers were washed with brine (200 mL), dried over MgSO4, concentrated in vacuo and purified by silica gel chromatography (eluant: 25-50% EtOAc/hexane) affording 3.76 g of 4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carboxylic acid. MS m/e=275.1 (M+H)+.

reactant | NaH | 60 mmol, 2.3 g | [H-].[Na+]
reactant | ethyl 2-(4-(trifluoromethyl)phenyl)acetate | 20 mmol, 4.672 g | FC(C1=CC=C(C=C1)CC(=O)OCC)(F)F | C11H11F3O2
reactant | bis(2-bromoethyl)ether | 22 mmol, 2.8 mL | BrCCOCCBr | C4H8Br2O
solvent | NMP | 80 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | HCl | Cl | ClH
product | 4-(4-(trifluoromethyl)phenyl)-tetrahydro-2H-pyran-4-carboxylic acid | 3.76 g | FC(C1=CC=C(C=C1)C1(CCOCC1)C(=O)O)(F)F | C13H13F3O3
